US08071779B2
N-(1-Benzylazepan-4-yl)-1H-indazol-5-amine, Compound 1.031
The title compound was prepared by reaction of 2,2-dimethyl-1-(5-(piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one with tert-butyl 4-oxoazepane-1-carboxylate using the method of Example 3, deprotection using the method of Example 4, reaction with benzaldehyde following the method of Example 8, and final deprotection using the method of Example 9.

reactant | 2,2-dimethyl-1-(5-(piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one | CC(C(=O)N1N=CC2=CC(=CC=C12)NC1CNCCC1)(C)C | C17H24N4O
reactant | tert-butyl 4-oxoazepane-1-carboxylate | O=C1CCN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | N-(1-Benzylazepan-4-yl)-1H-indazol-5-amine | C(C1=CC=CC=C1)N1CCC(CCC1)NC=1C=C2C=NNC2=CC1 | C20H24N4
